US05246561
Iodination of Tyrosine at pH 7.0
Electrolysis was carried out using the same cell, anode, membrane and procedure as in Example 15, except that the pH of the anolyte and catholyte was 7.0. At 85% iodide conversion, the yield of 3-iodo-L-tyrosine was 58% based on initial iodide.

reactant | iodide | [I-]
reactant | 3-iodo-L-tyrosine | IC=1C=C(C[C@H](N)C(=O)O)C=CC1O | C9H10INO3
product | Tyrosine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
